US04206309
1-(2-Cyanoethyl)-3-(2-vinyloxyethyl)-5,5-dimethylhydantoin
A mixture of 237.8 g (1.2 mols) of 3-(2-vinyloxyethyl)-5,5-dimethylhydantoin, prepared as described in Example 1, 79.6 g (1.2 mols+20% excess) of acrylonitrile, 0.5 g of hydroquinone, 2.4 ml of a 40% solution of benzyltrimethylammonium hydroxide in methanol and 360 ml of dimethylformamide is allowed to react for 27 hours at 81°-85° C. The solution is then concentrated on a rotary evaporator at 90° C. under vacuum from a waterpump and the residue is dried to constant weight at 90° C. and 13.3 Pa. 300.4 g (99.6% of theory) of a dark brown, crystalline crude product are obtained and are purified by distillation. 260.8 g (86.5% of theory) of a crystalline distillate boiling at 147°-150° C. are obtained. After recrystallisation from ether, the product melts at 54.8°-55.5° C.

reactant | 3-(2-vinyloxyethyl)-5,5-dimethylhydantoin | 1.2 mols, 237.8 g | C(=C)OCCN1C(NC(C1=O)(C)C)=O | C9H14N2O3
reactant | acrylonitrile | 1.2 mols, 79.6 g | C(C=C)#N | C3H3N
reactant | hydroquinone | 0.5 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | benzyltrimethylammonium hydroxide | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | methanol | CO | CH4O
solvent | dimethylformamide | 360 ml | CN(C=O)C | C3H7NO
product | 1-(2-Cyanoethyl)-3-(2-vinyloxyethyl)-5,5-dimethylhydantoin | C(#N)CCN1C(=O)N(C(=O)C1(C)C)CCOC=C | C12H17N3O3
